US08309721B2
Synthesis of 4-[4-(6-fluoro-1H-benzimidazol-2-yl)-9H-carbazol-9-yl]-2-[(1-methyl-1H-imidazol-4-yl)methylamino]benzamide
The process is carried out as in stage 3 of Example 3, but using 160 mg of 2-fluoro-4-[4-(6-fluoro-1H-benzimidazol-2-yl)-9H-carbazol-9-yl]benzonitrile, obtained according to stage 2 of Example 3, 210 mg of potassium carbonate and 338.5 mg of (1-methyl-1H-imidazol-4-yl)methylamine in 3.3 ml of dimethyl sulphoxide, in a microwave for 1 hour and 30 minutes at 115° C. 0.76 ml of a 1M aqueous solution of sodium hydroxide, 0.70 ml of a 30% aqueous solution of hydrogen peroxide and 6.6 ml of ethanol are then added to the reaction medium. After treatment as in stage 3 of Example 3, and then purification by flash chromatography on silica gel, elution being carried out with a mixture of dichloromethane and ethanol (95/5 by volume), 78 mg of 4-[4-(6-fluoro-1H-benzimidazol-2-yl)-9H-carbazol-9-yl]-2-[(1-methyl-1H-imidazol-4-yl)methylamino]benzamide are thus obtained in the form of an ecru powder, the characteristics of which are the following:

reactant | 2-fluoro-4-[4-(6-fluoro-1H-benzimidazol-2-yl)-9H-carbazol-9-yl]benzonitrile | 160 mg | FC1=C(C#N)C=CC(=C1)N1C2=CC=CC=C2C=2C(=CC=CC12)C1=NC2=C(N1)C=C(C=C2)F | C26H14F2N4
reactant | potassium carbonate | 210 mg | C([O-])([O-])=O.[K+].[K+]
reactant | (1-methyl-1H-imidazol-4-yl)methylamine | 338.5 mg | CN1C=NC(=C1)CN | C5H9N3
reactant | sodium hydroxide | [OH-].[Na+]
reactant | hydrogen peroxide | OO | H2O2
solvent | dimethyl sulphoxide | 3.3 ml | CS(=O)C | C2H6OS
solvent | ethanol | 6.6 ml | C(C)O | C2H6O
product | 4-[4-(6-fluoro-1H-benzimidazol-2-yl)-9H-carbazol-9-yl]-2-[(1-methyl-1H-imidazol-4-yl)methylamino]benzamide | FC=1C=CC2=C(NC(=N2)C2=CC=CC=3N(C4=CC=CC=C4C23)C2=CC(=C(C(=O)N)C=C2)NCC=2N=CN(C2)C)C1 | C31H24FN7O
